US06797718B2
2,6,7-Trimethyl-1-{2-[(3-phenylprop-2-ynyl)oxy]ethyl}-1H-imidazo[4,5-c]pyridin-4-amine (0.55 g, 1.645 mmol) from Part I of Example 7 was combined with 10% palladium on carbon (0.10 g) in a Parr reactor. Methanol (30 mL) was added to the resulting mixture under a nitrogen purge, and then the mixture was placed under hydrogen at a pressure of 310 kPa for 4 hours. The resulting reaction mixture was filtered through a layer of Celite™ filter agent, and the filtrate was concentrated under reduced pressure to a clear oil. The oil was dissolved in 5% methanol in diethyl ether (˜50 mL), and 1M hydrochloric acid in diethyl ether (1.7 mL) was added to the resulting solution. Volatiles were removed under reduced pressure, and the resulting solids were dissolved in water. The aqueous solution was stirred for 10 minutes when the product oiled out of solution. The aqueous portion was washed with dichloromethane (3×). The combined organic portions were washed with water (2×) and brine (3×), dried with magnesium sulfate, filtered, and concentrated to a glassy oil under reduced pressure. The oil was triturated with diethyl ether. The solids that formed after 10 minutes of stirring were filtered off and dried for 18 hours to provide 0.3185 g of 2,6,7-trimethyl-1-[2-(3-phenylpropoxy)ethyl]-1H-imidazo[4,5-c]pyridin-4-amine, m.p. 118.1-119.0° C.

reactant | 2,6,7-Trimethyl-1-{2-[(3-phenylprop-2-ynyl)oxy]ethyl}-1H-imidazo[4,5-c]pyridin-4-amine | 1.645 mmol, 0.55 g | CC=1N(C2=C(C(=NC(=C2C)C)N)N1)CCOCC#CC1=CC=CC=C1 | C20H22N4O
catalyst | palladium on carbon | 0.10 g | [Pd] | Pd
solvent | Methanol | 30 mL | CO | CH4O
product | 2,6,7-trimethyl-1-[2-(3-phenylpropoxy)ethyl]-1H-imidazo[4,5-c]pyridin-4-amine | 0.3185 g | CC=1N(C2=C(C(=NC(=C2C)C)N)N1)CCOCCCC1=CC=CC=C1 | C20H26N4O
